Test of current-controlled current source.

* independent current source:
IPULSE 0 1 PULSE(1A 5A 1S 0.1S 0.4S 0.5S 2S)
R 2 0 500
VMON 1 2 0
.TRAN .1S 7S

* current-controlled current source:
FI2 0 1a VMON 1
Ra 2a 0 500
VMONa 1a 2a 0V

* the 2 vmon's should match.
.print tran i(vmon) i(vmona)
.END
